US06258812B1
7-Acetamino-1-(3-chloroanilino)-4-(4-pyridylmethyl)phthalazine hydrochloride
By analogy with Example 25, 300 mg (0.96 mmol) 7-acetamino-1-chloro-4-(4-pyridylmethyl)-phthalazine is reacted in 3.9 ml 1-butanol with 302 μl (2.88 mmol) 3-chloroaniline. Suspension of the raw product in 1 ml boiling ethanol and filtration lead to the title compound: HPLC: tRet(Grad5-40)=11.3; FAB MS (M+H)+=404.

reactant | 7-acetamino-1-chloro-4-(4-pyridylmethyl)-phthalazine | 0.96 mmol, 300 mg | N(C(=O)C)C1=CC=C2C(=NN=C(C2=C1)Cl)CC1=CC=NC=C1 | C16H13ClN4O
reactant | 3-chloroaniline | 2.88 mmol, 302 μl | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | 1-butanol | 3.9 ml | C(CCC)O | C4H10O
product | 7-Acetamino-1-(3-chloroanilino)-4-(4-pyridylmethyl)phthalazine hydrochloride | Cl.N(C(=O)C)C1=CC=C2C(=NN=C(C2=C1)NC1=CC(=CC=C1)Cl)CC1=CC=NC=C1 | InChI=1S/C22H18ClN5O.ClH/c1-14(29)25-18-5-6-19-20(13-18)22(26-17-4-2-3-16(23)12-17)28-27-21(19)11-15-7-9-24-10-8-15;/h2-10,12-13H,11H2,1H3,(H,25,29)(H,26,28);1H
